US04367234
p-Chlorophenol (10 g., 0.077 mole), ethyl iodide (13.1 g., 0.084 mole) and anhydrous potassium carbonate (10.6 g., 0.077 mole) were combined in 130 ml. of acetone and the stirred mixture heated to reflux for 16 hours. The reaction mixture was filtered and the filtrate evaporated to dryness. The residue was taken up in 300 ml. of chloroform, washed in sequence with two 120 ml. portions of 1 N sodium hydroxide, 50 ml. of brine and 50 ml. of water, dried over anhydrous magnesium sulfate, filtered and evaporated to yield 4-ethoxyphenyl chloride as an oil [10.5 g.; pnmr/CDCl3 /delta 1.4 (t, 3H), 4.0 (q,2H), 6.6-7.3 (m, 4H)].

reactant | p-Chlorophenol | 0.077 mole, 10 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | ethyl iodide | 0.084 mole, 13.1 g | C(C)I | C2H5I
reactant | potassium carbonate | 0.077 mole, 10.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 4-ethoxyphenyl chloride | C(C)OC1=CC=C(C=C1)Cl | C8H9ClO
